US07598391B2
{2-[3-Cyclohexyl-3-(4,4-difluoro-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid
{2-[3-Cyclohexyl-3-(4,4-difluoro-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid ethyl ester prepared using general procedures (A) and (B) using cyclohexyl-(4,4-difluoro-cyclohexyl)-amine and 5-aminothiazole-2-mercaptoacetic acid ethyl ester. Hydrolysis using general procedure (F) gave the title compound.

reactant | {2-[3-Cyclohexyl-3-(4,4-difluoro-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid ethyl ester | C(C)OC(CSC1=CN=C(S1)NC(=O)N(C1CCC(CC1)(F)F)C1CCCCC1)=O | C20H29F2N3O3S2
reactant | cyclohexyl-(4,4-difluoro-cyclohexyl)-amine | C1(CCCCC1)NC1CCC(CC1)(F)F | C12H21F2N
reactant | 5-aminothiazole 2-mercaptoacetic acid ethyl ester | NC1=CN=CS1.C(C)OC(CS)=O
product | {2-[3-Cyclohexyl-3-(4,4-difluoro-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid | C1(CCCCC1)N(C(NC=1SC(=CN1)SCC(=O)O)=O)C1CCC(CC1)(F)F | C18H25F2N3O3S2
